US09062056B2
(S)-3-(3-Amino-6-methyl-pyridin-2-ylamino)-hexanoic acid ethyl ester
To a slurry of (S)-3-(6-methyl-3-nitro-pyridin-2-ylamino)-hexanoic acid ethyl ester (358 mg, 1.21 mmol) in MeOH (10 mL) was added Pd/C (150 mg). The reaction mixture was de-gassed using house vacuum and saturated with H2. The reaction mixture was stirred at room temperature for 3 hours. The mixture was filtered through a celite and the filtrate was concentrated to afford 350 mg (100%) of the desired product as pale yellow oil. The resulting residue was used for the next reaction without further purification.

reactant | (S)-3-(6-methyl-3-nitro-pyridin-2-ylamino)-hexanoic acid ethyl ester | 1.21 mmol, 358 mg | C(C)OC(C[C@H](CCC)NC1=NC(=CC=C1[N+](=O)[O-])C)=O | C14H21N3O4
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | (S)-3-(3-Amino-6-methyl-pyridin-2-ylamino)-hexanoic acid ethyl ester | 350 mg, 100% | C(C)OC(C[C@H](CCC)NC1=NC(=CC=C1N)C)=O | C14H23N3O2
